US08426420B2
(iv) 4-((S)-2-{[5-[2-((S)-2-Benzyloxycarbonyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-(3-fluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester
To a solution of 2.000 g 4-((S)-4-tert-Butoxycarbonyl-2-{[5-carboxymethoxy-1-(3-fluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-butyryl)-piperazine-1-carboxylic acid ethyl ester in 20 ml DMF were added 0.506 g HOBt, 1.2 ml DIPEA and 0.798 g L-proline benzyl ester hydrochloride at RT. Then 0.633 g EDC was added portionwise and the suspension stirred at RT for 12 h. The reaction mixture was diluted with ethyl acetate and subsequently extracted with aqueous LiCl (4% w/w), 0.1 M HCl and aqueous NaHCO3. The organic layer was dried over MgSO4 and the solvent was removed under reduced pressure. The crude product thus obtained was used in the subsequent reaction.

reactant | 4-((S)-4-tert-Butoxycarbonyl-2-{[5-carboxymethoxy-1-(3-fluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-butyryl)-piperazine-1-carboxylic acid ethyl ester | 2.000 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)O)C1=CC(=CC=C1)F)=O | C28H36FN5O9
reactant | HOBt | 0.506 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.2 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | L-proline benzyl ester hydrochloride | 0.798 g | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EDC | 0.633 g
product | 4-((S)-2-{[5-[2-((S)-2-Benzyloxycarbonyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-(3-fluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(=O)OCC1=CC=CC=C1)C1=CC(=CC=C1)F)=O | C40H49FN6O10
